US04025632
1-Aminopyridinium chloride (20 parts) and n-butyric anhydride (100 parts) were heated at 100° C. for 4 hours. On cooling, a crystalline solid formed which was filtered off and washed with ethyl acetate to give 1-butyramidopyridinium chloride (19 parts, 62% yield), melting point 125° C.

reactant | 1-Aminopyridinium chloride | [Cl-].N[N+]1=CC=CC=C1
reactant | n-butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 1-butyramidopyridinium chloride | 62% yield | [Cl-].C(CCC)(=O)N[N+]1=CC=CC=C1 | InChI=1S/C9H12N2O.ClH/c1-2-6-9(12)10-11-7-4-3-5-8-11;/h3-5,7-8H,2,6H2,1H3;1H
